US09290451B2
a) tert-Butyl 2-cyanopropan-2-ylcarbamate
To a solution of tert-butyl 1-amino-2-methyl-1-oxopropan-2-ylcarbamate (Example 12 a, 12.5 g) and triethylamine (CAN 121-44-8, 29 g) in methylene chloride (150 mL) was added trifluoroacetic acid anhydride (CAN 407-25-0, 27.2 g) dropwise at 0° C. The resulting mixture was allowed to warm to room temperature and stirred for 4 h. After that the mixture was washed with water, 5 N citric acid and brine, the organic phase was dried over anhydrous sodium sulfate and concentrated to give the title compound (11 g, 97%) as a yellow solid; MS: m/e=207.1 [M+Na]+.

reactant | tert-butyl 1-amino-2-methyl-1-oxopropan-2-ylcarbamate | NC(C(C)(C)NC(OC(C)(C)C)=O)=O | C9H18N2O3
reactant | triethylamine | 29 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 27.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-cyanopropan-2-ylcarbamate | 11 g, 97% | C(#N)C(C)(C)NC(OC(C)(C)C)=O | C9H16N2O2
